US08304419B2
To a solution of ({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine (105 mg, 0.307 mmol), 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid (85 mg, 0.307 mmol) and HATU (117 mg, 0.307 mmol) in DMF (3 ml) was added diisopropylethyl amine (0.107 ml, 0.614 mmol) and the reaction mixture was stirred at rt for 45 minutes. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via silica gel chromatography to give N-({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (151 mg, 0.251 mmol, 82% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.73 (t, 1H), 7.95 (s, 1H), 7.39-7.46 (m, 1H), 7.34 (t, 1H), 6.99 (s, 1H), 6.70 (s, 1H), 6.66 (s, 1H), 5.47 (s, 2H), 4.45 (d, 2H), 3.36 (t, 2H), 2.50 (t, 2H), 1.46 (t, 2H), 1.16-1.28 (m, 2H), 0.82 (t, 3 H), 0.73 (t, 2H), −0.12 (s, 9H).

reactant | ({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)amine | 0.307 mmol, 105 mg | C(CCC)C=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CN)F | C17H18Cl2FNO
reactant | 4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxylic acid | 0.307 mmol, 85 mg | ClC=1N=CN(C1C(=O)O)COCC[Si](C)(C)C | C10H17ClN2O3Si
reactant | HATU | 0.307 mmol, 117 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.614 mmol, 0.107 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({3-[(3-butyl-5-chlorophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.251 mmol, 151 mg, 82% yield | C(CCC)C=1C=C(C=C(C1)Cl)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C27H33Cl3FN3O3Si
